US06858630B2
f) 2-(3-phenyl-2-methoxyphenyl)-9-hydroxy-naphth[1,2-d]imidazole-7-carboxylic acid hydrochloride
To an agitated solution of 2-methoxy-3-phenylbenzaldehyde (0.020 g, 0.08 mmol) in EtOH (0.80 mL) was added 7,8-Diamino-1-hydroxy-3-naphthoic acid dihydrochloride (0.02 g, 0.07 mmol) and sodium bisulfite (0.02 g) in water (0.20 mL). The solution was heated to 60° C. and agitated over 18 hours. The solution was cooled to room temperature and concentrated under reduced pressure. The tan residue was subjected to HPLC (ODS-A, gradient 10-90% CH3CN/water 0.1% TFA) to provide the title compound (0.008 g, 20%) MS(ES) m/z 411 [M+H].

reactant | 2-methoxy-3-phenylbenzaldehyde | 0.08 mmol, 0.020 g | COC1=C(C=O)C=CC=C1C1=CC=CC=C1 | C14H12O2
reactant | 7,8-Diamino-1-hydroxy-3-naphthoic acid dihydrochloride | 0.07 mmol, 0.02 g | Cl.Cl.NC1=CC=C2C=C(C=C(C2=C1N)O)C(=O)O
reactant | sodium bisulfite | 0.02 g | S([O-])(O)=O.[Na+]
solvent | EtOH | 0.80 mL | CCO | C2H6O
solvent | water | 0.20 mL | O | H2O
product | 2-(3-phenyl-2-methoxyphenyl)-9-hydroxy-naphth[1,2-d]imidazole-7-carboxylic acid hydrochloride | 0.008 g, 20% | Cl.C1(=CC=CC=C1)C=1C(=C(C=CC1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)O)O)OC | InChI=1S/C25H18N2O4.ClH/c1-31-23-17(14-6-3-2-4-7-14)8-5-9-18(23)24-26-19-11-10-15-12-16(25(29)30)13-20(28)21(15)22(19)27-24;/h2-13,28H,1H3,(H,26,27)(H,29,30);1H
